US07713994B2
(4Z)-6-Bromo-4-{[(3-hydroxy-4,5-dipropoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (110 mg, 0.39 mmol), 5-aminomethyl-2,3-dipropoxy-phenol hydrochloride salt (93 mg, 0.39 mmol) and Et3N (112 μL, 0.8 mmol) in N,N-dimethylformamide (DMF) (2 mL) is stirred at 25° C. for 24 hours. H2O (10 mL) is added to the reaction mixture. The resulting precipitate is filtered, washed with H2O and dried in vacuo to give 170 mg (91%) of the title compound as a tan powder. HRMS (ESI) m/z calcd for C23H25BrN2O5 (M+H)+1 489.10196. found: 489.10078.

reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.39 mmol, 110 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 5-aminomethyl-2,3-dipropoxy-phenol hydrochloride salt | 0.39 mmol, 93 mg | Cl.NCC=1C=C(C(=C(C1)O)OCCC)OCCC
reactant | Et3N | 0.8 mmol, 112 μL | CCN(CC)CC | C6H15N
reactant | H2O | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-{[(3-hydroxy-4,5-dipropoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 170 mg, 91% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C(=C1)OCCC)OCCC)O | C23H25BrN2O5
